US05187156
To a solution of Boc-Glu-OBzl (1.00 g) and TceOH (0.53 g) in methylene chloride (15 ml) were added 4-dimethylaminopyridine (0.04 g) and WSC.HCl (0.57 g) successively under ice cooling. The mixture was stirred for 3 hours at the same temperature. After evaporation, the residue was extracted with ethyl acetate. The organic layer was washed successively with 2% hydrochloric acid, water, 2% sodium hydrogencarbonate solution, water and saturated sodium chloride solution, and dried over magnesium sulfate. The evaporated residue was crystallized with petroleum ether, filtered and dried to give Boc-Glu(OTce)-OBzl (1.01 g).

reactant | Boc-Glu-OBzl | 1.00 g | N([C@@H](CCC(O)=O)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C17H23NO6
reactant | WSC.HCl | 0.57 g | CCN=C=NCCCN(C)C.Cl
reactant | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.04 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Boc-Glu(OTce)-OBzl | 1.01 g | N([C@@H](CCC(OCC(Cl)(Cl)Cl)=O)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C19H24Cl3NO6
